US07323472B2
To a solution of 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (223 mg, 0.5 mmol) in N-methylpyrollidine (5 mL) was added Et3N (0.1 mL) followed by 2-aminoethanesulfonic acid (200 mg, 1.5 mmol, 3 eq) and the reaction mixture was heated to 50° for 12 h. 1 M aq HCl was then added dropwise till pH 3. The reaction mixture was then extracted with EtOAc (2×20 mL). Organic layers were combined, washed with satd aq NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was then purified by flash chromatography to give an oily product, which was then recrystalized from methanol:H2O (3:1) to afford 51 mg of pure 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-hydroxy-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR (CDCl3): δ 2.24 (s, 3H), 6.31 (d, 1H, J=9.8 Hz), 7.02 (m, 5H). 7.23 (m, 1 H), 7.352 (m, 1H), LC MS (m/e)=384.2 (MH+). Rt=1.65 min

reactant | 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.5 mmol, 223 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)S(=O)(=O)C)=O | C21H14F3N3O3S
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
reactant | 2-aminoethanesulfonic acid | 1.5 mmol, 200 mg, 3 eq | NCCS(=O)(=O)O | C2H7NO3S
reactant | HCl | 1 M | Cl | ClH
solvent | N-methylpyrollidine | 5 mL | CN1CCCC1 | C5H11N
product | 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-hydroxy-8H-pyrido[2,3-d]pyrimidin-7-one | 51 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)O)=O | C20H12F3N3O2
